US04261888
(d) H-(D)Ala-Gly-OBzl.hydrochloride
3.4 g of Boc-(D)Ala-Gly-OBzl are dissolved in 50 ml of dioxane containing HCl and left to stand for one hour. The volume of the solution is reduced under vacuum and an excess of ether added. The precipitated salt is filtered off, dried and used as such for the coupling reaction.

reactant | Boc-(D)Ala-Gly-OBzl | 3.4 g | N([C@H](C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H24N2O5
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | H-(D)Ala-Gly-OBzl.hydrochloride | N[C@H](C)C(=O)NCC(=O)OCC1=CC=CC=C1.Cl | InChI=1S/C12H16N2O3.ClH/c1-9(13)12(16)14-7-11(15)17-8-10-5-3-2-4-6-10;/h2-6,9H,7-8,13H2,1H3,(H,14,16);1H/t9-;/m1./s1
